US04275198
4-METHYL-5-PHENYL-3-OXAZOLIDINE PROPIONIC ACID METHYL ESTER (COMPOUND I)
200 ml. of benzene, 43 g. (0.5 moles) of methyl acrylate and 76 g. of l-norephedrine are added to a 500 ml. three neck flask and refluxed overnight. To the solution is slowly added 15 g. (0.5 moles) of paraformaldehyde and the water removed using a dean-stark head. Concentrate the solution in vacuo on a steam bath and distill. The product boils at 137°-139° C./0.5 mm. The yield is 62 g.; n24 d=1.5155.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methyl acrylate | 0.5 moles | C(C=C)(=O)OC | C4H6O2
reactant | l-norephedrine | C[C@@H]([C@@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | paraformaldehyde | 0.5 moles | C=O | CH2O
solvent | water | O | H2O
product | 4-METHYL-5-PHENYL-3-OXAZOLIDINE PROPIONIC ACID METHYL ESTER | COC(CCN1COC(C1C)C1=CC=CC=C1)=O | C14H19NO3
